US09238640B2
Preparation of N-(2-(3-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-5-methoxyphenoxy)ethyl)acetamide
2-[3-(2-Azido-ethoxy)-5-methoxy-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (90 mg, 0.22 mmol) was taken in thioacetic acid (2 mL) and the reaction mixture was stirred at room temperature for 2 hours. Thioacetic acid was removed under reduced pressure, and the residue was purified by column chromatography (silica gel 230-400 mesh; 3.5% methanol in dichloromethane as eluent) to give the title compound as a white solid. Yield: 45 mg (49%). MP 264-265° C. 1H NMR (400 MHz, DMSO-d6): δ 12.05 (s, 1H), 8.13 (t, J=5.86 Hz, 1H), 7.39 (d, J=1.56 Hz, 2H), 6.76 (d, J=2.34 Hz, 1H), 6.69 (t, J=2.15 Hz, 1H), 6.55 (d, J=2.34 Hz, 1H), 4.07 (t, J=5.67 Hz, 2H), 3.90 (s, 3H), 3.85 (s, 3H), 3.83 (s, 3H), 3.43 (q, J=5.47 Hz, 2H), 1.84 (s, 3H). MS (ES+) m/z: 414.11 (M+1).

reactant | 2-[3-(2-Azido-ethoxy)-5-methoxy-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.22 mmol, 90 mg | N(=[N+]=[N-])CCOC=1C=C(C=C(C1)OC)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C19H19N5O5
reactant | thioacetic acid | 2 mL | C(C)(=S)O | C2H4OS
product | N-(2-(3-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-5-methoxyphenoxy)ethyl)acetamide | COC1=C2C(NC(=NC2=CC(=C1)OC)C=1C=C(OCCNC(C)=O)C=C(C1)OC)=O | C21H23N3O6
